* PSpice Model
*$
*PART NUMBER:DNI_2PIN
*Stand-in model for a part with a Do Not Install directive
*Version:1
********************************************
.SUBCKT DNI_2PIN 1 2

R1 1 2 10E09
C1 1 2 1E-12

.ENDS DNI_2PIN
